US03994940
A stirred mixture of 3-amino-6-chloro-3,4-dihydro-4-hydroxy-4-phenylquinazoline (2.74 g. 0.01 mole) in dry tetrahydrofuran (150 ml.) is cooled in an ice bath, under nitrogen, and treated with dry pyridine (1.77 ml., 0.022 mole). This mixture is then treated dropwise, during 1 hour with a solution of β-phthalimidopropionyl chloride (5.23 g., 0.022 mole) in tetrahydrofuran (25 ml.). The mixture is kept in the ice bath for 1 hour and at ambient temperature for 4 hours. It is then poured into cold, dilute aqueous sodium bicarbonate and extracted with chloroform. The extract is washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue is mixed with toluene (165 ml.), treated with trifluoroacetic acid (0.732 ml.) and warmed, under nitrogen at 100°-110° C. for 1.5 hours. The mixture is concentrated in vacuo and the residue mixed with cold water and extracted with chloroform. The extract is washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on silica gel (300 g) with 1.5% methanol-98.5% chloroform. The product thus obtained is crystallized to give 5-chloro-2-[3-(2-phthalimidoethyl)-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 3-amino-6-chloro-3,4-dihydro-4-hydroxy-4-phenylquinazoline | 0.01 mole, 2.74 g | NN1C=NC2=CC=C(C=C2C1(C1=CC=CC=C1)O)Cl | C14H12ClN3O
reactant | pyridine | 0.022 mole, 1.77 ml | N1=CC=CC=C1 | C5H5N
reactant | β-phthalimidopropionyl chloride | 0.022 mole, 5.23 g | C1(C=2C(C(N1CCC(=O)Cl)=O)=CC=CC2)=O | C11H8ClNO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 5-chloro-2-[3-(2-phthalimidoethyl)-4H-1,2,4-triazol-4-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C25H17ClN4O3
